US04735951
Using the procedure of Example 5, 5 g of 4-hydroxy-2-(1-hydroxypropyl)-N-(2-thiazolyl)-8-trifluoromethyl-3-quinoline carboxamide and 2.8 g of lauric acid were reacted to obtain 6 g of 1-[4-hydroxy-3-(2-thiazolylamino)-carbonyl]-8-(trifluoromethyl)-2-quinolinyl]-propyl dodecanoate melting at 158° C.

reactant | 4-hydroxy-2-(1-hydroxypropyl)-N-(2-thiazolyl)-8-trifluoromethyl-3-quinoline carboxamide | 5 g | OC1=C(C(=NC2=C(C=CC=C12)C(F)(F)F)C(CC)O)C(=O)NC=1SC=CN1 | C17H14F3N3O3S
reactant | lauric acid | 2.8 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
product | propyl dodecanoate | C(CCCCCCCCCCC)(=O)OCCC | C15H30O2
